US04738970
4.11 Grams of 3-methyl-8-acetoxy-5,6,7,8-tetrahydroquinoline was dissolved in 15 ml of 30%-sodium hydroxide aqueous solution and 15 ml of methanol, the thus obtained mixture was stirred with heating at 65° C. for 3 hours. The solvent was removed by evaporation, and the residue thus obtained was purified by a silica gel column chromatography (eluent: n-hexane/ethyl acetate=5/1) to obtain 1.50 g of 3-methyl-8-hydroxy-5,6,7,8-tetrahydroquinoline.

reactant | 3-methyl-8-acetoxy-5,6,7,8-tetrahydroquinoline | CC=1C=NC=2C(CCCC2C1)OC(C)=O | C12H15NO2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 3-methyl-8-hydroxy-5,6,7,8-tetrahydroquinoline | 1.50 g | CC=1C=NC=2C(CCCC2C1)O | C10H13NO
